US09428791B2
2-methyl-3-furoic acid imidazolide (FAI).
126 mg (1 mmol) 2-methyl-3-furoic acid is dissolved in 0.5 mL anhydrous DMSO. A solution of 162 mg (1 mmol) 1,1′-carbonyldiimidazole in 0.5 mL anhydrous DMSO is added dropwise over 5 minutes. The resulting solution is stirred at room temperature until gas evolution is complete, then further stirred at room temperature for one hour. The resulting solution is used as a 1.0 M stock solution (assuming complete conversion) containing a 1:1 mixture of the desired compound and imidazole. The solution is frozen at −80° C. when not in use. An analytical sample is prepared by use of dichloromethane as solvent instead of DMSO. The crude reaction is purified by flash silica column chromatography, eluting with 1:1 hexanes:EtOAc. NMR indicates the presence of some hydrolyzed material (identical to the furoic acid starting material).

reactant | 2-methyl-3-furoic acid | 1 mmol, 126 mg | CC=1OC=CC1C(=O)O | C6H6O3
reactant | 1,1′-carbonyldiimidazole | 1 mmol, 162 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 2-methyl-3-furoic acid imidazolide | [N-]1C=NC=C1.CC=1OC=CC1C(=O)O | InChI=1S/C6H6O3.C3H3N2/c1-4-5(6(7)8)2-3-9-4;1-2-5-3-4-1/h2-3H,1H3,(H,7,8);1-3H/q;-1
